US08609688B2
tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(1,1-dioxidothiomorpholin-4-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate
A mixture of tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate (50.0 mg, 0.101 mmol), 4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]thiomorpholine 1,1-dioxide (51.5 mg, 0.153 mmol), Pd(dppf)2Cl2.DCM (8.32 mg, 0.0102 mmol), and 2M NaOH aq. (0.150 mL, 0.310) in DME (2 mL) was heated at 80° C. for 10 hours under nitrogen. After cooling to room temperature, the mixture was diluted with DCM and filtered through a Celite pad. The combined filtrate and washings were concentrated. The residue was purified by silica gel column chromatography (CHCl3/EtOAc=2:1→1:1→1:2) to afford desired product (38.4 mg, 56.6%) as pale yellow foam.

reactant | tert-butyl (1-{4-[2-(2-aminopyridin-3-yl)-5-chloro-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}cyclobutyl)carbamate | 0.101 mmol, 50.0 mg | NC1=NC=CC=C1C1=NC=2C(=NC(=CC2)Cl)N1C1=CC=C(C=C1)C1(CCC1)NC(OC(C)(C)C)=O | C26H27ClN6O2
reactant | 4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]thiomorpholine 1,1-dioxide | 0.153 mmol, 51.5 mg | CC1(OB(OC1(C)C)C=1C=C(C=CC1)N1CCS(CC1)(=O)=O)C | C16H24BNO4S
reactant | NaOH | 2M, 0.150 mL | [OH-].[Na+]
solvent | DME | 2 mL | COCCOC | C4H10O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(dppf)2Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DCM | 0.0102 mmol, 8.32 mg | C(Cl)Cl | CH2Cl2
product | tert-Butyl[1-(4-{2-(2-aminopyridin-3-yl)-5-[3-(1,1-dioxidothiomorpholin-4-yl)phenyl]-3H-imidazo[4,5-b]pyridin-3-yl}phenyl)cyclobutyl]carbamate | 38.4 mg, 56.6% | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)N1C(=NC=2C1=NC(=CC2)C2=CC(=CC=C2)N2CCS(CC2)(=O)=O)C=2C(=NC=CC2)N)=O | C36H39N7O4S
